US08110579B2
Add 355 mL of a 1M solution of diisobutylaluminium hydride (DIBAL-H) (355 mmol) in toluene to a solution of 61 g (322 mmol) of (2E)-3-(2,6-dimethoxyphenyl)acrylonitrile in 600 mL of anhydrous toluene under argon and cooled to 0° C., maintaining the temperature at 0° C. Then bring the reaction mixture to room temperature (RT) and stir for 3 h. Then add 13 mL (322 mmol) of methanol and then, dropwise, 170 g (174 mmol) of an aqueous solution of sulphuric acid at 10 wt. %. Stir the suspension for one hour, then filter on a celite bed. Wash the filtrate with 500 mL of water then dry over Na2SO4 and concentrate under reduced pressure. Take up the residue obtained in 500 mL of DCM and filter in a silica column, eluting with DCM. After concentration under reduced pressure, we obtain 37 g of (2E)-3-(2,6-dimethoxyphenyl)acrylaldehyde in the form of colourless oil.

reactant | diisobutylaluminium hydride | 355 mmol | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (2E)-3-(2,6-dimethoxyphenyl)acrylonitrile | 322 mmol, 61 g | COC1=C(C(=CC=C1)OC)/C=C/C#N | C11H11NO2
reactant | methanol | 322 mmol, 13 mL | CO | CH4O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | (2E)-3-(2,6-dimethoxyphenyl)acrylaldehyde | 37 g, Yield=60% | COC1=C(C(=CC=C1)OC)/C=C/C=O | C11H12O3
